US04336395
reacting said (chloromethyl) phenylethyldimethylmethoxysilane with ammonia under heat and pressure, and distilling the reaction mixture to yield (aminomethyl) phenylethyldimethylmethoxysilane.

reactant | (chloromethyl) phenylethyldimethylmethoxysilane | ClCCO[Si](C)(C)CCC1=CC=CC=C1 | C12H19ClOSi
reactant | ammonia | N | H3N
product | (aminomethyl) phenylethyldimethylmethoxysilane | NCCO[Si](C)(C)CCC1=CC=CC=C1 | C12H21NOSi
